US04459422
Preparation of (E)-trans-6-{2-[3,5-Dichloro-4'-fluoro-2-(1,1'-biphenyl)yl]ethenyl}-3,4,5,6-tetrahydro-4-hydroxy-2H-pyran-2-one
By substituting equimolar amounts of 2-(2,4-dichloro-6-methoxyphenyl)-4,4-dimethyl-2-oxazoline and 4-fluorophenylmagnesium bromide for 2-(2-methoxyphenyl)-4,4-dimethyl-2-oxazoline and 2-methoxyphenylmagnesium bromide, the title compound was prepared following the procedure of Example 17, Step A, (85%), mp 93°-95° C.

reactant | 2-(2,4-dichloro-6-methoxyphenyl)-4,4-dimethyl-2-oxazoline | ClC1=C(C(=CC(=C1)Cl)OC)C=1OCC(N1)(C)C | C12H13Cl2NO2
reactant | 4-fluorophenylmagnesium bromide | FC1=CC=C(C=C1)[Mg]Br
reactant | 2-(2-methoxyphenyl)-4,4-dimethyl-2-oxazoline | COC1=C(C=CC=C1)C=1OCC(N1)(C)C | C12H15NO2
reactant | 2-methoxyphenylmagnesium bromide | COC1=C(C=CC=C1)[Mg]Br
product | (E)-trans-6-{2-[3,5-Dichloro-4'-fluoro-2-(1,1'-biphenyl)yl]ethenyl}-3,4,5,6-tetrahydro-4-hydroxy-2H-pyran-2-one | ClC=1C(=C(C=C(C1)Cl)C1=CC=C(C=C1)F)/C=C/[C@H]1C[C@@H](CC(O1)=O)O | C19H15Cl2FO3
